*TB_SUN_TR_SKY130NM/TB_NCM
*----------------------------------------------------------------
* Include
*----------------------------------------------------------------
#ifdef Lay
.include ../../../work/lpe/OSCILLATOR_lpe.spi
#else
.include ../../../work/xsch/OSCILLATOR.spice
#endif

*-----------------------------------------------------------------
* OPTIONS
*-----------------------------------------------------------------
.option TNOM=27 GMIN=1e-15 reltol=1e-3

*-----------------------------------------------------------------
* PARAMETERS                                                     
*-----------------------------------------------------------------
.param TRF = 10p

.param AVDD = {vdda}

*-----------------------------------------------------------------
* FORCE                                                          
*-----------------------------------------------------------------
VSS  VSS  0     dc 0
VDD  VDD_1V8  VSS  pwl 0 0 10n {AVDD}
VPWRUP  PWRUP_B_1V8  VSS  dc 1.8
VPWRUP_N  PWRUP_N_1V8  VSS  dc 0
VCTAT V_CTAT VSS dc {v_ctat}
IPTAT I_PTAT VSS dc {i_ptat}
VTB_BIAS TB_BIAS VSS dc 0.8

*-----------------------------------------------------------------
* DUT
*-----------------------------------------------------------------
.include ../xdut.spi

*----------------------------------------------------------------
* PROBE
*----------------------------------------------------------------
.save all


*----------------------------------------------------------------
* NGSPICE control
*----------------------------------------------------------------
.control
set num_threads=8
set color0=white
set color1=black
unset askquit

optran 0 0 0 1n 10u 0


tran {t_step} {t_stop}
write
quit


.endc

.end
